US06531502B1
Ethyl indole-2-carboxylate (10 g, 52.8 mmol) was formylated using POCl3 (1.3 equiv.) and DMF (1.3 equiv.) as above to give 3-formyl-1H-indole-2-carboxylic acid ethyl ester as a white solid.

reactant | Ethyl indole-2-carboxylate | 52.8 mmol, 10 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | POCl3 | 1.3 equiv. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 1.3 equiv. | CN(C)C=O | C3H7NO
product | 3-formyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C=O | C12H11NO3
